US07300907B2
Alliquat 336 (methyltrioctylammonium chloride (0.63 g, 0.0016 mol), dibromomethane (40.7 g, 234.2 mmol), and water (31 mL) were placed in a 500 mL 3-necked flask equipped with an addition funnel, condenser and a stir bar. The addition funnel was charged with a solution of 3-fluorocatechol (20.0 g, 6.1 mmol) in 5M sodium hydroxide (80 mL). The mixture in the flask was heated to reflux and the solution of the catechol was added dropwise with good stirring over 1.5 hours. The resulting dark mixture was heated an additional 2 hours at reflux. After cooling to room temperature, the reaction was diluted with methylene chloride and water. The aqueous layer was extracted with methylene chloride and the combined organic layers were dried and concentrated to give 1-fluoro-2,3-methylenedioxybenzene (14.6 g, 104.2 mmol) as a dark yellow oil: 1H NMR (CDCl3): δ 6.80 (m, 1H), 6.68 (m, 2H), 6.04 (s, 2H).

reactant | dibromomethane | 234.2 mmol, 40.7 g | BrCBr | CH2Br2
reactant | 3-fluorocatechol | 6.1 mmol, 20.0 g | FC1=C(C(O)=CC=C1)O | C6H5FO2
reactant | catechol | C=1(O)C(O)=CC=CC1 | C6H6O2
catalyst | methyltrioctylammonium chloride | 0.0016 mol, 0.63 g | [Cl-].C[N+](CCCCCCCC)(CCCCCCCC)CCCCCCCC
solvent | sodium hydroxide | 5M, 80 mL | [OH-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | water | 31 mL | O | H2O
product | 1-fluoro-2,3-methylenedioxybenzene | 104.2 mmol, 14.6 g | FC1=C2C(=CC=C1)OCO2 | C7H5FO2
